US07141596B2
Step 2. Methyl 2-[4-([4-(1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)benzyl]oxymethyl)phenoxy]-6-methoxybenzoate
Methyl 2-(4-formylphenoxy)-6-methoxybenzoate (0.071 g, 0.24 mmol) and 5-[4-(hydroxymethyl)phenyl]isothiazol-3(2H)-one 1,1-dioxide (0.050 g, 0.21 mmol) were dissolved in 4 M hydrogen chloride in 1,4-dioxane (2.1 m). The reaction was stirred at ambient temperature for 1.25 h. Triethylsilane (0.13 mL, 0.84 mmol) was added and stirred for 18 h. The reaction was quenched with acetone and evaporated. The product was purified on a 50 mm Luna C18 column using a 20–100% acetonitrile in water gradient with 0.05% trifluoroacetic acid at 30 mL per minute over a 30 minute period. The product was lyophilized to give a white powder (6 mg, 6%). 1H NMR (400 MHz, CDCl3): δ 7.79 (d, J=8.4 Hz, 2H), 7.53 (d, J=8.1 Hz, 2H), 7.32 (m, 2H), 6.71 (s, 1H), 6.69 (d, J=8.5 Hz, 1H), 6.49 (d, J=8.3 Hz, 1H), 4.62 (m, 2H), 4.55 (m, 2H), 3.87 (s, 3H), 3.85 (s, 3H); LCMS found for C26H23NNaO8S (M+Na)+: m/z=532.0.

reactant | Methyl 2-(4-formylphenoxy)-6-methoxybenzoate | 0.24 mmol, 0.071 g | C(=O)C1=CC=C(OC2=C(C(=O)OC)C(=CC=C2)OC)C=C1 | C16H14O5
reactant | 5-[4-(hydroxymethyl)phenyl]isothiazol-3(2H)-one 1,1-dioxide | 0.21 mmol, 0.050 g | OCC1=CC=C(C=C1)C1=CC(NS1(=O)=O)=O | C10H9NO4S
reactant | Triethylsilane | 0.84 mmol, 0.13 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | Methyl 2-[4-([4-(1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)benzyl]oxymethyl)phenoxy]-6-methoxybenzoate | 6 mg, 6% | O=S1(NC(C=C1C1=CC=C(COCC2=CC=C(OC3=C(C(=O)OC)C(=CC=C3)OC)C=C2)C=C1)=O)=O | C26H23NO8S
